US08222424B2
3-Chlorosulfonyl-4-fluoro benzoyl chloride
To a suspension of 3-chlorosulfonyl-4-fluoro benzoic acid (2.5 g, 10 mmol) in methylene chloride at 0° C. is added oxalyl chloride (1.33 g, 11 mmol), followed by the addition of 1 drop of N,N,-dimethylformamide. The reaction mixture is warmed up to room temperature and stirred for an additional 4 h. The solvent is removed, and the residue is dried under vacuum for 1 hr to obtain the title compound as an oil, which is used for the next step without further purification.

reactant | 3-chlorosulfonyl-4-fluoro benzoic acid | 10 mmol, 2.5 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1F | C7H4ClFO4S
reactant | oxalyl chloride | 11 mmol, 1.33 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | N,N,-dimethylformamide | 1 drop | CN(C)C=O | C3H7NO
product | 3-Chlorosulfonyl-4-fluoro benzoyl chloride | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1F | C7H3Cl2FO3S
